US06977262B2
5-Cyano-4-(2,3-dichlorophenyl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from methyl propionate, 2,3-dichlorobenzaldehyde, 3-aminopyrazole and 1-cyanobutan-2-one in the same manner as in Example 94.

reactant | methyl propionate | C(CC)(=O)OC | C4H8O2
reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 1-cyanobutan-2-one | C(#N)CC(CC)=O | C5H7NO
product | 5-Cyano-4-(2,3-dichlorophenyl)-6-ethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1CC)=NNC2)C2=C(C(=CC=C2)Cl)Cl | C15H12Cl2N4
